US07915271B2
Step D 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′,6′-difluoro-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic Acid
methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′,6′-difluoro-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (73.5 mg, 0.10 mmol), lithium hydroxide monohydrate (42 mg, 1 mmol), water (1 mL) and 1,4-dioxane (2 mL) were stirred at room temperature for 2 hrs. Volatiles were removed under reduced pressure. Pot residue was dissolved in a MeCN/1N HCl (aq) mixture and purified by reverse-phase prep-HPLC (Kromasil 100-5C18, 100×21.1 mm) eluting w/a MeCN (0.1% TFA, v/v)/H2O (0.1% TFA, v/v) gradient mixture. Corresponding fractions were pooled & evaporated in vacuo to afford the title compound. LCMS (ESI) calc.=717.14; found=718.17 (M+1)+. 1H NMR (CDCl3, 500 MHz): δ 8.04 (s, 1H), 7.97 (d, J=8 Hz, 1H), 7.88 (s, 1H), 7.74-7.67 (m, 4H), 7.51-7.45 (m, 1H), 7.34 (d, J=8 Hz, 1H), 7.19 (br s, 1H), 7.09 (t, J=9 Hz, 1H), 5.59 (d, J=8 Hz, 1H), 5.08-4.80 (m, 1H), 4.20-3.78 (m, 2H), 2.32 (s, 3H), 0.62 (s, 3H).

reactant | methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′,6′-difluoro-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.10 mmol, 73.5 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C(=CC1F)F)C1=C(C=C(C=C1)C(=O)OC)C)C)(F)F | C35H24F11NO4
reactant | lithium hydroxide monohydrate | 1 mmol, 42 mg | O.[OH-].[Li+]
reactant | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′,6′-difluoro-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic Acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C(=CC1F)F)C1=C(C=C(C=C1)C(=O)O)C)C)(F)F | C34H22F11NO4
